2115-05-27 07:43:00 Physician Resident Progress Note
Chief Complaint: 79M with non-operable pancreatic cancer s/p biliary
   stenting, now with cholangitis
   24 Hour Events:
   -MAPs stable 76-81 with IVF overnight, no pressor requirement
   -Receiving 2 units of FFP to reverse INR for ERCP today
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2115-5-26**] 10:30 PM
   Ciprofloxacin - [**2115-5-26**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, Mild RUQ pain
   Flowsheet Data as of  [**2115-5-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 64 (62 - 74) bpm
   BP: 118/61(76) {91/56(63) - 119/70(81)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: JR (Junctional Rhythm)
   Height: 67 Inch
             Total In:
                                                                    895 mL
                                                                    955 mL
   PO:
             TF:
   IVF:
                                                                    895 mL
                                                                    955 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    320 mL
   Urine:
                                                                    225 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                    635 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Mild tenderness to deep palpation in the right upper
   quadrant and epigastrium
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   129 K/uL
   9.4 g/dL
   96 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.6 mEq/L
   19 mg/dL
   114 mEq/L
   139 mEq/L
   28.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2115-5-26**]  08:10 PM
                             [**2115-5-27**]  04:44 AM
   WBC
   16.8
   13.5
   Hct
   34.0
   28.4
   Plt
   140
   129
   Cr
   1.3
   1.2
   TropT
   <0.01
   Glucose
   110
   96
   Other labs: PT / PTT / INR:24.6/33.3/2.4, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:36/53, Alk Phos / T Bili:464/1.1,
   Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:146 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Microbiology: Blood cultures 5/11: Pending
   Assessment and Plan
   79M with non-operable pancreatic cancer s/p biliary stenting, now with
   cholangitis
   # cholangitis: based on history and indwelling biliary stents, elevated
   WBC, hypotension at OSH, as well as GNR septicemia, pt has ascending
   cholangitis. Given history of severe infections with resistant
   organisms and instrumentation of the biliary tract, will cover broadly,
   ie, meropenem + ciprofloxacin, until culture and sensitivity data are
   available.
   - IVF to keep MAP >65
   - biliary/ERCP team following, plan for ERCP today; will reverse
   coagulopathy with two units of FFP
   - NPO given external compression of stomach/duodenum seen on CT scan
   # coagulopathy: INR 3.0, on coumadin as outpt but did receive vit K po
   at OSH. Repeat in am, plan to transfuse two units FFP and recheck prior
   to ERCP.
   # a fib: currently well rate controlled. restart beta blocker once
   hemodynamically stable. reversing anticoagulation as above.
   # DM: QID fingersticks and RISS given NPO
   # pancreatic cancer: inoperable based on extent of lesion and
   peri-operative risk factors, per surgeons at [**Hospital1 609**]. monitor for pain.
   control of cholangitis as above.
   # BPH: hold alpha blockers until septicemia resolved; would plan to
   restart tamsulosin prior to foley removal.
   # CKD: renally dose meds
   ICU Care
   Nutrition:
   Comments: NPO for procedure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2115-5-26**] 08:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2115-05-27 10:36:00 Physician Attending Progress Note
Chief Complaint: cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M with inoperable pancreatic cx with stent transferred from OSH
   with cholangitis for ERCP
   24 Hour Events:
 EKG - At [**2115-5-26**] 10:02 PM
   BP responsive to IVF, no pressor requirement
   FFP
   ercp today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-26**] 11:00 PM
   Meropenem - [**2115-5-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-27**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 60 (60 - 74) bpm
   BP: 96/57(67) {91/56(63) - 119/70(81)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    895 mL
                                                                  1,055 mL
   PO:
             TF:
   IVF:
                                                                    895 mL
                                                                  1,055 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    520 mL
   Urine:
                                                                    225 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                    535 mL
   Respiratory support
   SpO2: 98% (RA)
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: mild ruq,
   epigastric to deep palpation, no r/g
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 4, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   129 K/uL
   96 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.6 mEq/L
   19 mg/dL
   114 mEq/L
   139 mEq/L
   28.4 %
   13.5 K/uL
        [image002.jpg]
                             [**2115-5-26**]  08:10 PM
                             [**2115-5-27**]  04:44 AM
   WBC
   16.8
   13.5
   Hct
   34.0
   28.4
   Plt
   140
   129
   Cr
   1.3
   1.2
   TropT
   <0.01
   Glucose
   110
   96
   Other labs: PT / PTT / INR:24.6/33.3/2.4, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:36/53, Alk Phos / T Bili:464/1.1,
   Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:146 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Imaging: no new imaging
   Microbiology: bl cx osh [**4-19**] GNR
   bl cx here [**5-26**] pending
   Assessment and Plan
   79 yo M with inoperable pancreatic cx with stent transferred from OSH
   with cholangitis awaiting ERCP
   # Cholangitis
   GNR bacteremia, change [**Last Name (un) 614**]/cipro to zosyn (hospital acquired bowel/gn
   coverage, does not  require esbl coverage)
   f/u OSH cx data
   NPO for ercp today
   # hypotension
septic in setting of bacteremia, resolved with IVF,
   remains normotensive
   # coagulopathy
coumadin for A-fib
   FFP pre-ercp for INR < 1.5
   # CKD
   Creatinine at baseline
   renally dose meds for cr clearance
   # DM
   SSI
   ICU Care
   Nutrition:  NPO pending ERCP
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2115-5-26**] 08:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, ffp given for ercp)
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU pending ercp
   Total time spent: 40 minutes

2115-05-28 07:49:00 Physician Resident Progress Note
Chief Complaint: 79M with non-operable pancreatic cancer s/p biliary
   stenting, now with cholangitis, s/p ERCP guided stent change
   24 Hour Events:
   Pus and dilated CBD, GI removed stent and placed a new one, 7 day Zosyn
   course.
   OSH blood cx showed E.coli 4/4 bottles, Zosyn sensitive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-26**] 11:00 PM
   Meropenem - [**2115-5-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-5-28**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, Mild epigastric pain
   Flowsheet Data as of  [**2115-5-28**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 74 (60 - 77) bpm
   BP: 126/67(81) {96/56(66) - 158/86(103)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  2,281 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  1,705 mL
                                                                    550 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  1,770 mL
                                                                    665 mL
   Urine:
                                                                  1,770 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    511 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), regular rhythm normal rate
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: mild epigastric tenderness to deep palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   130 K/uL
   9.6 g/dL
   89 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   17 mg/dL
   114 mEq/L
   142 mEq/L
   28.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2115-5-26**]  08:10 PM
                             [**2115-5-27**]  04:44 AM
                             [**2115-5-28**]  03:31 AM
   WBC
   16.8
   13.5
   8.7
   Hct
   34.0
   28.4
   28.9
   Plt
   140
   129
   130
   Cr
   1.3
   1.2
   1.2
   TropT
   <0.01
   Glucose
   110
   96
   89
   Other labs: PT / PTT / INR:15.8/27.5/1.4, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:26/32, Alk Phos / T Bili:490/1.2,
   Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:146 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Microbiology: Blood cultures from [**Date range (1) 625**] with NGTD
   Assessment and Plan
   79M with non-operable pancreatic cancer s/p biliary stenting, now with
   cholangitis s/p ERCP guided stent change.
   # cholangitis: based on history and indwelling biliary stents, elevated
   WBC, hypotension at OSH, as well as GNR septicemia, pt has ascending
   cholangitis.  ERCP showed a dilated CBD with pus, stent successfully
   changed.  OSH blood cultures showing E. coli in [**4-19**] bottles, sensitive
   to zosyn
   -Seven day course of zosyn given culture results
   # a fib: currently well rate controlled.
   -Restart BB and coumadin today
   # DM:
   -restart home meds
   # pancreatic cancer: inoperable based on extent of lesion and
   peri-operative risk factors, per surgeons at [**Hospital1 609**]. monitor for pain.
   control of cholangitis as above.
   # BPH: hold alpha blockers until septicemia resolved; would plan to
   restart tamsulosin prior to foley removal.
   -restart home tamsulosin
   # CKD: Cr at baseline renally dose meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-5-26**] 08:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2115-05-28 11:52:00 Physician Attending Progress Note
Chief Complaint: cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M with inoperable pancreatic cx with stent transferred from OSH
   with cholangitis now s/p ercp with stent  removal/replacement
   24 Hour Events:
   ercp yesterday--stent removed, new stent placed
   blood cx results grew e coli
   uneventful overnight
                               History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-5-26**] 11:00 PM
   Meropenem - [**2115-5-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2115-5-28**] 08:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-5-28**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 63 (61 - 77) bpm
   BP: 132/79(92) {102/56(66) - 158/86(103)} mmHg
   RR: 20 (0 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  2,285 mL
                                                                  1,375 mL
   PO:
             TF:
   IVF:
                                                                  1,709 mL
                                                                  1,375 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  1,770 mL
                                                                    965 mL
   Urine:
                                                                  1,770 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    515 mL
                                                                    410 mL
   Respiratory support
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli Movement: all 4 ext No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.6 g/dL
   130 K/uL
   89 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   17 mg/dL
   114 mEq/L
   142 mEq/L
   28.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2115-5-26**]  08:10 PM
                             [**2115-5-27**]  04:44 AM
                             [**2115-5-28**]  03:31 AM
   WBC
   16.8
   13.5
   8.7
   Hct
   34.0
   28.4
   28.9
   Plt
   140
   129
   130
   Cr
   1.3
   1.2
   1.2
   TropT
   <0.01
   Glucose
   110
   96
   89
   Other labs: PT / PTT / INR:15.8/27.5/1.4, CK / CKMB /
   Troponin-T:134/3/<0.01, ALT / AST:26/32, Alk Phos / T Bili:490/1.2,
   Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:146 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   79 yo M with inoperable pancreatic cx with stent transferred from OSH
   with cholangitis awaiting ERCP
   # Cholangitis
   Tolerated ercp well, stent removed with new stent placed
   E coli bacteremia [**Doctor Last Name **] to zosyn, compelte 7 day course
   Advance diet as per gi
   # hypotension
initially septic in setting of bacteremia, resolved with
   IVF, remains normotensive
   # coagulopathy
continue coumadin for a-fib
   # CKD
   Creatinine remains at baseline
   renally dose meds for cr clearance
   # DM
   SSI, resume home regimen once taking pos
   # a fib: currently well rate controlled, continue lasix, bb
   # pancreatic cancer
   inoperable based on extent of lesion and peri-operative risk factors,
   per surgeons at [**Hospital1 609**].
   monitor for pain
   stent for obstruction as above
   ICU Care
   Nutrition:
   Comments: resume PO diet once cleared by GI
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-5-26**] 08:10 PM
   Comments: picc line pending d/c or transfer
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :stable for transfer to floor or osh pending bed
   availability
   Total time spent: 40 minutes